US06353006B1
2-Amino-1,3-propanediol was reacted with excess SOCl2 followed by 2-methyl-4-nitrophenyl isothiocyanate according to Method C2a to give 2-(2-methyl-4-nitrophenylimino)-4-(chloromethyl)-1,3-thiazolidine. The thiazolidine was reacted with N-methylamine according to Method D13a to give 2-(2-methyl-4-nitrophenylimino)-4-(N-methylaminomethyl)-1,3-thiazolidine, which was reacted with isobutyl bromide according to Method D2a to afford 2-(2-methyl-4-nitrophenylimino)-3-isobutyl-4-(N-isobutyl-N-methylaminomethyl)-1,3-thiazolidine.

reactant | 2-Amino-1,3-propanediol | NC(CO)CO | C3H9NO2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl-4-nitrophenylimino)-4-(chloromethyl)-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC(N1)CCl | C11H12ClN3O2S
